US08648068B2
260.1 5-Methyl-4-{2-[(R)-(tetrahydro-pyran-3-yl)oxy]-Pyridin-3-ylamino}-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
Prepared analogously to example 1.1 from 4-Chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester and 2-[(R)-(Tetrahydro-pyran-3-yl)oxy]-pyridin-3-ylamine

reactant | 4-Chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2Cl)S1)C | C9H7ClN2O2S
reactant | 2-[(R)-(Tetrahydro-pyran-3-yl)oxy]-pyridin-3-ylamine | O1C[C@@H](CCC1)OC1=NC=CC=C1N | C10H14N2O2
product | 5-Methyl-4-{2-[(R)-(tetrahydro-pyran-3-yl)oxy]-Pyridin-3-ylamino}-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC=2C(=NC=CC2)O[C@H]2COCCC2)S1)C | C19H20N4O4S
